US07312249B2
h. Synthesis of 1-{4-[3-(3,4-Bis-hydroxymethyl-phenyl)-propyl]-2-ethyl-phenoxy}-3,3-dimethyl-butan-2-ol
900 mg (2 mmol) of dimethyl 4-{3-[4-(3,3-dimethyl-2-oxobutoxy)-3-ethylphenyl]propyl}phthalate are dissolved in 20 ml of THF, and slowly added to a suspension of 375 mg (10 mmol) of lithium aluminum hydride. The reaction medium is stirred for 30 minutes at room temperature, and is then sequentially treated by slow addition of 400 μl of water, 400 μl of 15% sodium hydroxide and 1 ml of water. The reaction medium is poured into a 1% hydrochloric acid solution, and then extracted with ethyl ether. The residue obtained after drying and concentrating is purified by chromatography on a silica column. A thick colorless oil is obtained (m=760 mg, y=95%).

reactant | dimethyl 4-{3-[4-(3,3-dimethyl-2-oxobutoxy)-3-ethylphenyl]propyl}phthalate | 2 mmol, 900 mg | CC(C(COC1=C(C=C(C=C1)CCCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC)CC)=O)(C)C | C27H34O6
reactant | lithium aluminum hydride | 10 mmol, 375 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 400 μl | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
solvent | water | 400 μl | O | H2O
product | 1-{4-[3-(3,4-Bis-hydroxymethyl-phenyl)-propyl]-2-ethyl-phenoxy}-3,3-dimethyl-butan-2-ol | OCC=1C=C(C=CC1CO)CCCC1=CC(=C(OCC(C(C)(C)C)O)C=C1)CC | C25H36O4
